US07211573B2
To 15.4 g (43.6 mmol) DL-4,4,4-trifluoro-N,N-bis(phenylmethyl)-threonine in 60 ml dimethylformamide were added in portions 4.03 g (92.4 mmol) sodium hydride (55%) at 0° C. The suspension was stirred for 2 hours and then 10.5 ml (95.9 mmol) 2,5-difluoro-nitrobenzene were added. After stirring overnight at 0° C. the mixture was poured on ice/water. Extraction with ethylacetate and chromatography on silicagel with ethylacetate/heptane 1:1 (and adding 30% methanol after the first five 250 ml fractions) yielded 11.7 g (55%) racemic (2S,3S and 2R,3R)-2-dibenzylamino-4,4,4-trifluoro-3-(4-fluoro-2-nitro-phenoxy)-butyric acid acid as yellow oil, MS m/e (%): 491.1 (M−H+, 100).

reactant | 4,4,4-trifluoro-N,N-bis(phenylmethyl)-threonine | FC([C@H]([C@H](N(CC1=CC=CC=C1)CC1=CC=CC=C1)C(=O)O)O)(F)F | C18H18F3NO3
reactant | sodium hydride | 92.4 mmol, 4.03 g | [H-].[Na+]
reactant | 2,5-difluoro-nitrobenzene | 95.9 mmol, 10.5 ml | FC1=C(C=C(C=C1)F)[N+](=O)[O-] | C6H3F2NO2
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 2-dibenzylamino-4,4,4-trifluoro-3-(4-fluoro-2-nitro-phenoxy)-butyric acid | C(C1=CC=CC=C1)N(C(C(=O)O)C(C(F)(F)F)OC1=C(C=C(C=C1)F)[N+](=O)[O-])CC1=CC=CC=C1 | C24H20F4N2O5
